US06004724
10.1: (4-Hydroxyimino-3-methoxy-cyclohexa-2,5-dienylidene)-phenylacetonitrile
21.0 g (0.18 mol) of phenylacetonitrile and 25 g (0.16 mol) of o-nitroanisole are added at 25° C. to a solution of 35.6 g KOH (0.54 mol, assay 85%) in 180 ml of methanol and the dark red reaction mixture is stirred at 55° C. for 6 hrs. After cooling, the mixture is diluted with 500 ml of water, and acidified by addition of 60 ml of acetic acid with cooling. The resulting orange precipitate is filtered, washed with water, methanol:water 1:1 (v/v), and dried at 80° C. under vacuum. The crude product (30.8 g, 75%) has a melting point of 180-182° C. (dec) (Lit: 187° C. dec; J. Org. Chem. 26, 4270, 1961) and is used in the next step without further purification. The 1H-NMR spectrum indicates the presence of two isomers in nearly 1:1 ratio.

reactant | phenylacetonitrile | 0.18 mol, 21.0 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | o-nitroanisole | 0.16 mol, 25 g | COC=1C=CC=CC1[N+](=O)[O-] | C7H7NO3
reactant | KOH | 0.54 mol, 35.6 g | [OH-].[K+]
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 180 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | (4-Hydroxyimino-3-methoxy-cyclohexa-2,5-dienylidene)-phenylacetonitrile | ON=C1C(=CC(C=C1)=C(C#N)C1=CC=CC=C1)OC | C15H12N2O2
